US04367339
Preparation of 2,4,6-tribromo-N-nitro-N-(2-propynyl) aniline
2,4,6-tribromo-N-nitroaniline (5.0 g; 0.01334 mol) is reacted with a methanolic solution of sodium hydroxide (0.53 g; 0.01324 mol) in the presence of methanol (60 ml). The solvent is then removed, and the residue dried. The thus obtained sodium salt is dissolved in dimethyl sulfoxide (DMSO) and reacted with 3-bromopropyne (1.52 g; 0.0147 mol) at 25° C. The reaction mixture is stirred 16 hours and then poured into water. The title product is extracted with ether (3×125 ml), the combined extract washed with water, dilute sodium hydroxide, water and brine. The ethereal solution is then dried over magnesium sulfate and the solution concentrated to afford the product, mp. 58°-58.5° C.

reactant | 2,4,6-tribromo-N-nitroaniline | 0.01334 mol, 5.0 g | BrC1=C(N[N+](=O)[O-])C(=CC(=C1)Br)Br | C6H3Br3N2O2
reactant | sodium hydroxide | 0.01324 mol, 0.53 g | [OH-].[Na+]
reactant | methanol | 60 ml | CO | CH4O
reactant | 3-bromopropyne | 0.0147 mol, 1.52 g | BrCC#C | C3H3Br
solvent | water | O | H2O
product | 2,4,6-tribromo-N-nitro-N-(2-propynyl) aniline | BrC1=C(N(CC#C)[N+](=O)[O-])C(=CC(=C1)Br)Br | C9H5Br3N2O2
